US03989842
1. Production of N-(2,6-dichlorobenzoyl)-N'-(3,4-dichlorophenyl)-urea.
9.5 g of 2,6-dichlorobenzamide and 10.34 g of 3,4-dichlorophenylisocyanate in 25 ml of pyridine to which 1 g of sodium has been added are heated on a steam bath (100° C+) for 24 hours. The reaction mixture is poured on ice which contains concentrated hydrochlorid acid and the solid precipitate is thoroughly washed with successively water and alcohol. The substance is recristallized from acetonitrile. Melting point 232° C.

reactant | 2,6-dichlorobenzamide | 9.5 g | ClC1=C(C(=O)N)C(=CC=C1)Cl | C7H5Cl2NO
reactant | 3,4-dichlorophenylisocyanate | 10.34 g | ClC=1C=C(C=CC1Cl)N=C=O | C7H3Cl2NO
reactant | sodium | 1 g | [Na] | Na
reactant | hydrochlorid | Cl | ClH
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | N-(2,6-dichlorobenzoyl)-N'-(3,4-dichlorophenyl)-urea | ClC1=C(C(=O)NC(=O)NC2=CC(=C(C=C2)Cl)Cl)C(=CC=C1)Cl | C14H8Cl4N2O2
